US08022206B2
(5-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-thiophen-2-yl)methanol
A solution of 5-{6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-3-yl}-thiophene-2-carbaldehyde (6.0 mg, 0.013 mmol), sodium borohydride (2.5 mg, 0.067 mmol) and MeOH (1 mL) was stirred at 0° C. for 1 h. The material was concentrated in vacuo and redissolved in DMF (0.5 mL) for HPLC purification. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.90 (d, J=6.8 Hz, 3H), 4.76 (s, 2H), 6.54 (q, J=6.8 Hz, 1H), 7.01 (d, J=3.5 Hz, 1H), 7.19-7.27 (m, 2H), 7.41 (dd, J=9.0, 4.9 Hz, 1H), 7.86 (s, 1H), 8.22 (s, 1H). MS (ES+): m/z 452.90 (100) [MH+]. HPLC: tR=3.27 min (ZQ3, polar—5 min).

reactant | 5-{6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-3-yl}-thiophene-2-carbaldehyde | 0.013 mmol, 6.0 mg | NC1=C(C2=C(C=N1)C(=CO2)C2=CC=C(S2)C=O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C20H13Cl2FN2O3S
reactant | sodium borohydride | 0.067 mmol, 2.5 mg | [BH4-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | (5-{6-Amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-furo[3,2-c]pyridin-3-yl}-thiophen-2-yl)methanol | NC1=C(C2=C(C=N1)C(=CO2)C2=CC=C(S2)CO)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C20H15Cl2FN2O3S
